US08039503B2
E27.1. Synthesis of 1′-pyrazin-2-ylspiro[naphtho[1,2-b][1,4]oxathiine-2,4′-piperidine]-5,6-dione (Compound 229)
A mixture of spiro[naphtho[1,2-b][1,4]oxathiine-2,4′-piperidine]-5,6-dione (0.150 g, 0.50 mmol), 2-chloropyrazine (0.57 g, 1.67 mmol), triethylamine (0.1 ml, 0.72 mmol), and DMSO (50 ml) was stirred for three hours at 100° C. The crude reaction mixture was purified directly by reverse phase HPLC to give the product as a purple solid (0.014 g, 0.7%) MP=255-256° C.; 400 MHz 1H NMR (DMSO-d6) δ: 8.41 (s, 1H), 8.10-8.07 (m, 1H), 7.91-7.81 (m, 3H), 7.76-7.70 (m, 1H), 7.58-7.52 (m, 1H), 4.28-4.22 (m, 2H), 3.39-3.28 (m, 2H), 3.12 (s, 2H), 2.11-2.04 (m, 2H), 1.88-1.79 (m, 2H); LCMS: 380 [M+H].

reactant | spiro[naphtho[1,2-b][1,4]oxathiine-2,4′-piperidine]-5,6-dione | 0.50 mmol, 0.150 g | N1CCC2(CC1)CSC1=C(O2)C2=CC=CC=C2C(C1=O)=O | C16H15NO3S
reactant | 2-chloropyrazine | 1.67 mmol, 0.57 g | ClC1=NC=CN=C1 | C4H3ClN2
reactant | triethylamine | 0.72 mmol, 0.1 ml | C(C)N(CC)CC | C6H15N
solvent | DMSO | 50 ml | CS(=O)C | C2H6OS
product | 1′-pyrazin-2-ylspiro[naphtho[1,2-b][1,4]oxathiine-2,4′-piperidine]-5,6-dione | 0.014 g, 0.7% | N1=C(C=NC=C1)N1CCC2(CC1)CSC1=C(O2)C2=CC=CC=C2C(C1=O)=O | C20H17N3O3S
